US07144908B2
iii) Methyl 3-iodo-α-methyl-D-phenylalaninate
A solution of 3-iodo-α-methyl-D-phenylalanine (0.9 g) in MeOH (50 ml) was treated with thionyl chloride (3.5 ml) and the mixture was heated to reflux for 3 days. The solvent was removed under reduced pressure and the residue was dissolved in EtOAc and washed with aqueous sodium bicarbonate, brine, dried (MgSO4) and evaporated to dryness to give the title compound (0.73 g) LCMS RT=2.12 min.

reactant | 3-iodo-α-methyl-D-phenylalanine | 0.9 g | IC=1C=C(C[C@@](N)(C(=O)O)C)C=CC1 | C10H12INO2
reactant | thionyl chloride | 3.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | MeOH | 50 ml | CO | CH4O
product | Methyl 3-iodo-α-methyl-D-phenylalaninate | 0.73 g | IC=1C=C(C[C@@](N)(C(=O)OC)C)C=CC1 | C11H14INO2
